US04220804
1.15 g (0.05 mol) of sodium metal dissolved in 75 ml of methanol was added dropwise with cooling (0°-10° C.) a solution of 4.0 g (0.025 mol) of 2-nitro-1-phenyl-1-propene and 4.9 g (0.025 mol) of tetranitromethane in 25 ml of methanol. The resulting solution was stirred at room temperature for 1 hour. The product was isolated and purified as described in Example 1 above, except that acidification prior to workup was omitted. Ultimately there was obtained 2.5 g (42%) of analytically pure, white crystalline 2,2-dinitro-1-methoxy-1-phenylpropane, mp 53°-55° C. The same procedure was employed to prepare the 2-ethoxy and 2-propoxy derivatives with the exception that the appropriate alcohol was substituted for methanol.

reactant | sodium | 0.05 mol, 1.15 g | [Na] | Na
reactant | 2-nitro-1-phenyl-1-propene | 0.025 mol, 4.0 g | [N+](=O)([O-])C(=CC1=CC=CC=C1)C | C9H9NO2
reactant | tetranitromethane | 0.025 mol, 4.9 g | [N+](=O)([O-])C([N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | CN4O8
reactant | methanol | 75 ml | CO | CH4O
reactant | methanol | 25 ml | CO | CH4O
product | 2,2-dinitro-1-methoxy-1-phenylpropane | [N+](=O)([O-])C(C(C1=CC=CC=C1)OC)(C)[N+](=O)[O-] | C10H12N2O5
